simulator lang=spectre
global 0

ahdl_include "./dut/lock_detector.va"

Vrst (rst_n 0) vsource type=pwl wave=[ \
0 0 \
5n 0 \
5.2n 0.9 \
55n 0.9 \
55.2n 0 \
62n 0 \
62.2n 0.9 \
93n 0.9 \
93.2n 0 \
115n 0 \
]
Vref (ref_clk 0) vsource type=pwl wave=[ \
0 0 \
11.9n 0 12.0n 0.9 13.0n 0.9 13.1n 0 \
21.9n 0 22.0n 0.9 23.0n 0.9 23.1n 0 \
31.9n 0 32.0n 0.9 33.0n 0.9 33.1n 0 \
41.9n 0 42.0n 0.9 43.0n 0.9 43.1n 0 \
51.9n 0 52.0n 0.9 53.0n 0.9 53.1n 0 \
67.9n 0 68.0n 0.9 69.0n 0.9 69.1n 0 \
77.9n 0 78.0n 0.9 79.0n 0.9 79.1n 0 \
87.9n 0 88.0n 0.9 89.0n 0.9 89.1n 0 \
107.9n 0 108.0n 0.9 109.0n 0.9 109.1n 0 \
115n 0 \
]
Vfb (fb_clk 0) vsource type=pwl wave=[ \
0 0 \
6.0n 0 6.1n 0.9 6.3n 0.9 6.4n 0 \
8.0n 0 8.1n 0.9 8.3n 0.9 8.4n 0 \
10.0n 0 10.1n 0.9 10.3n 0.9 10.4n 0 \
10.9n 0 11.0n 0.9 12.0n 0.9 12.1n 0 \
20.9n 0 21.0n 0.9 22.0n 0.9 22.1n 0 \
30.9n 0 31.0n 0.9 32.0n 0.9 32.1n 0 \
40.9n 0 41.0n 0.9 42.0n 0.9 42.1n 0 \
47.9n 0 48.0n 0.9 49.0n 0.9 49.1n 0 \
66.9n 0 67.0n 0.9 68.0n 0.9 68.1n 0 \
76.9n 0 77.0n 0.9 78.0n 0.9 78.1n 0 \
86.9n 0 87.0n 0.9 88.0n 0.9 88.1n 0 \
106.9n 0 107.0n 0.9 108.0n 0.9 108.1n 0 \
115n 0 \
]
XDUT (ref_clk fb_clk rst_n lock) lock_detector

simulatorOptions options evas_profile=balanced

tran tran stop=115n maxstep=100p
save ref_clk fb_clk rst_n lock
